US06699861B1
7-Chloro-2-chloromethyl-6-methyl-3,4-dihydroquinazolin-4-one
To a flask containing sodium (36 mg) was added anhydrous MeOH (5 ml). Chloroacetonitrile (0.520 g, 6.9 mmol) was then added and the clear solution was stirred at room temperature for 30 min under argon. A solution of 2-amino-4-chloro-5-methylbenzoic acid (1.13 g, 6.0 mmol) in anhydrous methanol (25 ml) was then added with a syringe via a rubber septum. The reaction mixture was stirred at room temperature for 2 hours under argon, then it was fitted with a condenser and placed in an oil bath preheated to 80° C. Stirring was continued at this temperature for 2 hours under argon, then the reaction mixture was allowed to cool to room temperature. The precipitate was collected by filtration, washed with methanol (10 ml), and water (10 ml), and dried in vacuo over P2O5 to afford a grey solid (1.0 g, 69%), mp 287-290° C.; 1H-NMR (DMSO-d6) 2.47 (s, 3H, 6-CH3), 4.53 (s, 2H, CH2Cl), 7.75, 8.08 (2×s, 2H, 5-H and 8-H); 12.60 (s, 1H, N3—H); MS (FAB, m/z) 243, 244, 245 (M+H)+.

reactant | sodium | 36 mg | [Na] | Na
reactant | Chloroacetonitrile | 6.9 mmol, 0.520 g | ClCC#N | C2H2ClN
reactant | 2-amino-4-chloro-5-methylbenzoic acid | 6.0 mmol, 1.13 g | NC1=C(C(=O)O)C=C(C(=C1)Cl)C | C8H8ClNO2
solvent | methanol | 25 ml | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
product | 7-Chloro-2-chloromethyl-6-methyl-3,4-dihydroquinazolin-4-one | 1.0 g, 69% | ClC1=C(C=C2C(NC(=NC2=C1)CCl)=O)C | C10H8Cl2N2O
